US06630509B2
(a) [4-(Methoxymethyl)phenyl]acetic acid
4-(Bromomethyl)phenylacetic acid (4.85 g, 21.17 mmole), sodium methoxide (30% in methanol, ˜12 ml, ˜65 mmole)) and methanol (30 ml) were mixed and refluxed over night. The reaction mixture was allowed to cool down and was then acidified with HCL (1M). Methanol was evaporated. Water was added and the reaction mixture was extracted three times with dichloromethane. The combined organic phases was washed with brine and dried with NA2SO4. Evaporation gave 3.6 g, 94.4%, of the desired product.

reactant | 4-(Bromomethyl)phenylacetic acid | 21.17 mmole, 4.85 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | sodium methoxide | ˜65 mmole, ˜12 ml | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | [4-(Methoxymethyl)phenyl]acetic acid | COCC1=CC=C(C=C1)CC(=O)O | C10H12O3
